US04622397
To a solution of 34.6 g (0.35 mole) of phosgene in 600 ml of acetic acid are added 60 g (0.35 mole) of 6-isopropyl-4-methyl-3-mercapto-1,2,4-triazin-5(4H)-one. After the slightly exothermic reaction has subsided, the reaction mixture is stirred for 1 hour at 25° C. The precipitate is isolated by filtration and washed with a small amount of ethyl acetate, affording 64.5 g (90% of theory) of 3-chloro-6-isopropyl-4-methyl-1,2,4-triazin-5(4H)-one hydrochloride with a melting point of 120° C. (dec.).

reactant | phosgene | 0.35 mole, 34.6 g | C(=O)(Cl)Cl | CCl2O
reactant | 6-isopropyl-4-methyl-3-mercapto-1,2,4-triazin-5(4H)-one | 0.35 mole, 60 g | C(C)(C)C=1C(N(C(=NN1)S)C)=O | C7H11N3OS
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
product | 3-chloro-6-isopropyl-4-methyl-1,2,4-triazin-5(4H)-one hydrochloride | 64.5 g, 90% | Cl.ClC1=NN=C(C(N1C)=O)C(C)C | InChI=1S/C7H10ClN3O.ClH/c1-4(2)5-6(12)11(3)7(8)10-9-5;/h4H,1-3H3;1H
